US05075502
Preparation of N,N'-Bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-5-hydroxyacetamido-2,4,6-triiodoisophthalamide
5-Acetoxyacetamido-N,N'-bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-2,4,6-triiodoisophthalamide (77 g, 0.086 g-mole) is dissolved in 270 ml of hot water containing 8.2 g (0.08 g-mole) sulfuric acid. The solution is stirred and heated at 95°-100° C. to hydrolyze the acetate. At the end of the reaction, the solution is cooled to room temperature and deionized using an anionic exchange resin, IRA-93 (Rohm and Haas Co.) to remove sulfuric acid. The solution is then concentrated and the crude product is purified by preparative liquid chromatography to provide the purified desired product (51 g; 0.06 g-mole, 70% yield). The 13C nmr spectra are consistent with the structure. The HPLC purity is 99.1% (C18, H2O/MeOH; 95/5). The water solubility (w/v) is 100%; the iv LD50 in mice is 5 g I/kg (based on iodine content). Osmolality: 676 mOsm/kg (32% I); viscosity: 8.2 cps (37°), 10.0 cps (25 °) (32% I).

reactant | 5-Acetoxyacetamido-N,N'-bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-2,4,6-triiodoisophthalamide | 77 g | C(C)(=O)OCC(=O)NC=1C(=C(C(=C(C(=O)NCC(O)CC(CO)O)C1I)I)C(=O)NCC(O)CC(CO)O)I | C22H30I3N3O11
reactant | acetate | C(C)(=O)[O-]
solvent | water | 270 ml, 8.2 g | O | H2O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N,N'-Bis[(2,3-dihydroxypropyl)-2-hydroxyethyl]-5-hydroxyacetamido-2,4,6-triiodoisophthalamide | 51 g, 70% yield | OC(CC(CNC(C1=C(C(C(=O)NCC(O)CC(CO)O)=C(C(=C1I)NC(CO)=O)I)I)=O)O)CO | C20H28I3N3O10
